US07217723B2
1-(4-Fluorophenyl)-2-methylamino-ethanol
2-(Benzyl-methyl-amino)-1-(4-fluorophenyl)-ethanol (54.6 g) and 10% palladium-carbon (5.8 g) was stirred in ethyl acetate-methanol (3:1) (800 mL) at 50° C. under hydrogen atmosphere for three hours. The catalyst was removed by filtration, and the filtrate was concentrated. After solidifying with an ether-hexane solvent, and the title compound (25.8 g) was obtained as a colorless solid.

reactant | 2-(Benzyl-methyl-amino)-1-(4-fluorophenyl)-ethanol | 54.6 g | C(C1=CC=CC=C1)N(CC(O)C1=CC=C(C=C1)F)C | C16H18FNO
solvent | ethyl acetate methanol | 800 mL | C(C)(=O)OCC.CO
catalyst | palladium-carbon | 5.8 g | [C].[Pd]
product | 1-(4-Fluorophenyl)-2-methylamino-ethanol | 25.8 g | FC1=CC=C(C=C1)C(CNC)O | C9H12FNO
